US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (250 mg, 1.07 mmol) in DCM (10 mL) is cooled to 0° C., treated with DMF (20 μL) and ClCOCOCl (280 μL, 3.21 mmol), and stirred for 20 min. Toluene (10 mL) is added and the mixture is concentrated in vacuo. The residue is dissolved in pyridine (10 mL) and treated with DMAP (5 mg) and 1-(1-amino-5-fluoroindol-3-yl)-2-methyl-propan-2-ol (0.72 mmol). The mixture is stirred at rt for 12 h. The mixture is diluted with saturated aqueous Na2CO3, extracted with EtOAc. The organic layer is separated, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 20%-60% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(2-hydroxy-2-methyl-propyl)-indol-1-yl]-amide (218 mg, 70%). MS: 437 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 1.14 (s, 6H), 2.77 (s, 2H), 3.29 (s, 3H), 7.03 (m, 1H), 7.37 (s, 1H), 7.35-7.55 (m, 3H), 7.65 (m, 1H), 8.19 (m, 1H), 8.34 (m, 1H), 9.22 (s, 1H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.07 mmol, 250 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | DMF | 20 μL | CN(C)C=O | C3H7NO
reactant | ClCOCOCl | 3.21 mmol, 280 μL | ClC(=O)C(=O)Cl | C2Cl2O2
reactant | 1-(1-amino-5-fluoroindol-3-yl)-2-methyl-propan-2-ol | 0.72 mmol | NN1C=C(C2=CC(=CC=C12)F)CC(C)(O)C | C12H15FN2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(2-hydroxy-2-methyl-propyl)-indol-1-yl]-amide | 218 mg, 70% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)CC(C)(C)O | C24H22F2N4O2
